.SUBCKT PHP23NQ15T 1 2 3
* 1=drain  2=gate  3=source
L1 1 11 4.5e-9
L2 2 22 7.5e-9
L3 3 33 7.5e-9
Cgs  6 33 1382E-12
Cgd1 6 4 2289E-12
Cgd2 11 4 118E-12
M1 5 6 33 33 MOST1
M2 4 6 5 33 MOST2
D1 33 12 Dbody
Rdiode 12 11 Rtemp 1.5e-3
Rdrain 5 11 Rtemp 64e-3
Rgate 22 6 11
.MODEL MOST1 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=3.98 Kp=4.41e-5
+                          RS=0 RD=0 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=1e-4 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=1.45e12 DELTA=0.1)
.MODEL MOST2 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=-4.76 Kp=4.41e-5
+                          RS=1000 RD=1000 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=1e-4 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=0 DELTA=0.1)
.MODEL Dbody D(Is=1e-14 N=0.8 Rs=4.67e-3 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4
+                         Bv=150 Ibv=250e-6 Tt=118e-9)
.MODEL Rtemp RES(TC1=7.58e-3 TC2=1.16e-5)
.ENDS
